US08247410B2
Synthesis of 5-(8-Bromo-9-sec-butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine
To a solution of 5-(9-sec-Butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine, (200 mg, 0.57 mmol) in 15 ml of chloroform, was added slowly NBS, (120 mg, 0.68 mmol) at a temperature of 5° C. The reaction was continued for 2 hours at this temperature. After simple work-up, the product 5-(8-Bromo-9-sec-butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine was purified by flash column (solvent system: 50% ethyl acetate in hexane) to deliver the desired compound in a yield of 49% (120 mg).

reactant | 5-(9-sec-Butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | 0.57 mmol, 200 mg | C(C)(CC)N1C2=NC(=NC(=C2N=C1)C=1C=NC(=NC1)N)N1CCOCC1 | C17H22N8O
reactant | NBS | 0.68 mmol, 120 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(8-Bromo-9-sec-butyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | yield of 49% | BrC=1N(C2=NC(=NC(=C2N1)C=1C=NC(=NC1)N)N1CCOCC1)C(C)CC | C17H21BrN8O
